US08420642B2
Preparation of (5-phenylsulfonyl-pyridine-2-yl)-thiazole-2-yl-amine (“A14”)
(5-Phenylsulfanyl-pyridine-2-yl)-thiazole-2-yl-amine (0.07 mmol) is dissolved in dichloromethane, cooled to 0° C. and m-chloro-perbenzoic acid (3 eq.) is added. The reaction is stirred 30 min at 0° C. and 22 hours at RT. Sodium disulfite (40 ml) is added and extracted with dichloromethane. The combined organic layers are washed with saturated NaHCO3, dried over MgSO4 and the solvent is removed in vacuo. “A14” is obtained after reversed phase column chromatography (water/acetonitrile) as a colourless powder in a yield of 41%; HPLC (method C): 1.63 min; LC-MS (method A): 1.537 min, 317.95 (M+H+); 1H-NMR (DMSO-d6, 400 MHz): δ [ppm] 11.907 (s, 1H), 8.837-8.829 (m, 1H), 8.146 (dd, 1H, J=2.6 Hz, J=8.9 Hz), 8.006-7.976 (m, 2H), 7.714-7.671 (m, 1H), 7.645-7.605 (m, 2H), 7.456 (d, 1H, J=3.6 Hz), 7.185-7.154 (m, 2H).

reactant | (5-Phenylsulfanyl-pyridine-2-yl)-thiazole-2-yl-amine | 0.07 mmol | C1(=CC=CC=C1)SC=1C=CC(=NC1)NC=1SC=CN1 | C14H11N3S2
reactant | m-chloro-perbenzoic acid | 3 eq. | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Sodium disulfite | 40 ml | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (5-phenylsulfonyl-pyridine-2-yl)-thiazole-2-yl-amine | yield of 41% | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC(=NC1)NC=1SC=CN1 | C14H11N3O2S2
